US07067658B2
2-Benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine (5.40 g, 13.3 mmol) and TFA (25 mL) were treated as in Part B of Example 113 with the exception that the crude product was isolated as 3.90 g (93%) of 4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-3H-pyridin-2-one: MS(AP) m/z 317.0 [(M+H)+, 90], 357.9 [(M+H+CH3CN)+, 100].

reactant | 2-Benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine | 13.3 mmol, 5.40 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC(F)F)Cl | C19H13ClF2N2O4
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-3H-pyridin-2-one | 3.90 g, 93% | ClC1=C(C=CC(=C1)OC(F)F)C=1C(C(N=CC1)=O)[N+](=O)[O-] | C12H7ClF2N2O4
